US07199239B2
Intermediate 93: Ethyl [4-({butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate
To a solution of N-butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl)amine (58 mg, 0.19 mmol) in anhydrous CH2Cl2 (5 mL) was added ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate (83 mg, 0.28 mmol) and triethylamine (0.052 mL, 0.38 mmol). The resulting solution was stirred 20 h at room temperature under nitrogen. The reaction was diluted with CH2Cl2 (50 mL), and the organic solution washed with aq. sat. NaHCO3 (10 mL) and brine (10 mL). The organic extract was separated by hydrophobic frit and evaporated. Purification by mass directed autoprep afforded the title compound as a colourless oil (15 mg).

reactant | N-butyl-N-[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl)amine | 0.19 mmol, 58 mg | C(CCC)NC=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3N
reactant | ethyl [4-(chlorosulfonyl)-2-methylphenoxy]acetate | 0.28 mmol, 83 mg | ClS(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13ClO5S
reactant | triethylamine | 0.38 mmol, 0.052 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [4-({butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate | 15 mg | C(CCC)N(S(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C)C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C29H32F3NO5S
